US04985444
To a 28% methanolic solution of sodium methoxide (3 ml) was added 3-(3-chloropyridazin-4-yl)-2-phenylpyrazolo[1.5-a]pyridine (0.61 g). The mixture was refluxed for an hour and evaporated in vacuo. The residue was dissolved in chloroform (20 ml). The chloroform solution was washed with water (5 ml) and a saturated aqueous solution of sodium chloride (5 ml) and dried over magnesium sulfate. The solvent was removed and chromatographed on silica gel (10 g) with n-hexane-ethyl acetate as an eluent. The fractions containing the object compound were combined, evaporated in vacuo, and then recrystallized from a mixture of ethyl acetate and n-hexane to give 3-(3-methoxypyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.30 g).

reactant | sodium methoxide | 3 ml | C[O-].[Na+]
reactant | 3-(3-chloropyridazin-4-yl)-2-phenylpyrazolo[1.5-a]pyridine | 0.61 g | ClC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H11ClN4
product | 3-(3-methoxypyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.30 g | COC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4O
